US05998424
2-Iodo-4-(2-aminosulfonylphenyl)aniline
This compound was prepared by the method described for 2-fluoro-4-(2 -aminosulfonylphenyl)aniline described in EXAMPLE 8 by starting with 2-iodo-4-bromoaniline rather than 2-fluoro-4 -bromoaniline.

reactant | 2-fluoro-4-(2 -aminosulfonylphenyl)aniline | FC1=C(N)C=CC(=C1)C1=C(C=CC=C1)S(=O)(=O)N | C12H11FN2O2S
reactant | 2-iodo-4-bromoaniline | IC1=C(N)C=CC(=C1)Br | C6H5BrIN
reactant | 2-fluoro-4 -bromoaniline | FC1=C(N)C=CC(=C1)Br | C6H5BrFN
product | 2-Iodo-4-(2-aminosulfonylphenyl)aniline | IC1=C(N)C=CC(=C1)C1=C(C=CC=C1)S(=O)(=O)N | C12H11IN2O2S
